US04427589
9-Chloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one 6-oxide
A solution of 2.8 g (8.3 mmol) of 9-chloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one and 2.5 g (11.5 mmol) of 85% m-chloroperbenzoic acid in 110 mL of methylene chloride was stirred at room temperature for 2.5 hr. The reaction mixture was washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a yellow solid. Recrystallization from methanol gave pale yellow prisms, mp 219°-221°.

reactant | 9-chloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one | 8.3 mmol, 2.8 g | ClC1=CC2=C(C3=C(CN=C2C2=CC=CC=C2)N=C(NC3=O)C)C=C1 | C19H14ClN3O
reactant | m-chloroperbenzoic acid | 11.5 mmol, 2.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 110 mL | C(Cl)Cl | CH2Cl2
product | 9-Chloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one 6-oxide | ClC1=CC2=C(C3=C(C[N+](=C2C2=CC=CC=C2)[O-])N=C(NC3=O)C)C=C1 | C19H14ClN3O2
